US04966905
3-[2-(2,3-Dihydro-2,2-dimethyl-3-oxo-5-furanyl)ethenyl]benzonitrile
A solution of 3-cyanobenzaldehyde (2.5 g, 19 mM) and 2,2,5-trimethyl-3(2H)-furanone (2.0 g, 15.9 mM) in ethanol (100 mL), was added 1N aqueous sodium hydroxide (1.6 mL, 1.6 mM). The reaction solution was stirred for one day at room temperature. After saturated aqueous sodium chloride (400 mL) was added, the aqueous layer was extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a yellow solid. The product was recrystallized from hexane-ethyl acetate to afford an analytically pure sample (1.5 g, 43% yield), m.p. 155°-157° C.

reactant | 3-cyanobenzaldehyde | 19 mM, 2.5 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 2,2,5-trimethyl-3(2H)-furanone | 15.9 mM, 2.0 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | sodium hydroxide | 1N, 1.6 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[2-(2,3-Dihydro-2,2-dimethyl-3-oxo-5-furanyl)ethenyl]benzonitrile | 43% yield | CC1(OC(=CC1=O)C=CC=1C=C(C#N)C=CC1)C | C15H13NO2
